US08048884B2
N-[4-(4-{2-[Methyl-(1-methyl-1H-pyrazole-4-sulfonyl)-amino]-ethyl}-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-benzyl]-acetamide hydrochloride
Dissolve 1-methyl-1H-pyrazole-4-sulfonic acid [2-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-methyl-amide (200 mg, 0.483 mmol) in DMA-H2O (10 ml; 3:1 v/v, previously degassed with nitrogen). Add 4-acetamidophenyl boronic acid (112 mg, 0.580 mmol), potassium carbonate (160 mg, 1.16 mmol) and tetrakis(triphenyl-phosphine)palladium (28 mg, 0.024 mmol). Heat the reaction mixture at 110° C. for 18 hr. Cool and dilute with ethyl acetate and water. Extract the aqueous layer with ethyl acetate and combine the organic layers. Wash the combined organic layers with brine and concentrate. Purify by chromatography, eluting with 1:2 hexanes:acetone to afford the free base of the title compound (124 mg, 50% yield) as a white foam.

reactant | 1-methyl-1H-pyrazole-4-sulfonic acid [2-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-methyl-amide | 0.483 mmol, 200 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CCN(S(=O)(=O)C=1C=NN(C1)C)C | C15H22ClN7O2S
reactant | 4-acetamidophenyl boronic acid | 0.580 mmol, 112 mg | C(C)(=O)NC1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | potassium carbonate | 1.16 mmol, 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | CC(=O)C | C3H6O
reactant | DMA H2O | CC(=O)N(C)C.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-[4-(4-{2-[Methyl-(1-methyl-1H-pyrazole-4-sulfonyl)-amino]-ethyl}-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-benzyl]-acetamide hydrochloride | 124 mg, 50% yield | Cl.CN(CCN1CCN(CC1)C1=NC=CN=C1C1=CC=C(CNC(C)=O)C=C1)S(=O)(=O)C=1C=NN(C1)C | InChI=1S/C24H32N8O3S.ClH/c1-19(33)27-16-20-4-6-21(7-5-20)23-24(26-9-8-25-23)32-14-12-31(13-15-32)11-10-30(3)36(34,35)22-17-28-29(2)18-22;/h4-9,17-18H,10-16H2,1-3H3,(H,27,33);1H
